US08557805B2
Ethyl 5-[4-(methylsulfonyl)phenoxy]-7-(tetrahydro-2H-pyran-4-yloxy)-1H-indole-2-carboxylate
A mixture of ethyl 7-hydroxy-5-[4-(methylsulfonyl)phenoxy]-1H-indole-2-carboxylate (2.0 g), tetrahydro-2H-pyran-4-ol (2.02 mL), 1,1′-(azodicarbonyl)dipiperidine (5.3 g), tributylphosphine (5.3 mL), and tetrahydrofuran(60 mL) was stirred at 70° C. for 6 hr. To the reaction solution were added tetrahydro-2H-pyran-4-ol (1.02 mL), 1,1′-(azodicarbonyl)dipiperidine (2.5 g) and tributylphosphine (2.5 mL) and the mixture was stirred at 70° C. for 14 hr. The reaction solution was concentrated under reduced pressure to a half volume and the precipitated solid was filtered off. The filtrate was concentrated under reduced pressure, and the residue was subjected to silica gel column chromatography (volume ratio, ethyl acetate:hexane=5:95 to 50:50), and then basic silica gel column chromatography (volume ratio, methanol:ethyl acetate:hexane=0:2:98 to 20:80:0) to give the title compound (5.33 g) as a yellow oily crude product.

reactant | ethyl 7-hydroxy-5-[4-(methylsulfonyl)phenoxy]-1H-indole-2-carboxylate | 2.0 g | OC=1C=C(C=C2C=C(NC12)C(=O)OCC)OC1=CC=C(C=C1)S(=O)(=O)C | C18H17NO6S
reactant | tetrahydro-2H-pyran-4-ol | 2.02 mL | O1CCC(CC1)O | C5H10O2
reactant | 1,1′-(azodicarbonyl)dipiperidine | 5.3 g | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
reactant | tributylphosphine | 5.3 mL | C(CCC)P(CCCC)CCCC | C12H27P
reactant | tetrahydro-2H-pyran-4-ol | 1.02 mL | O1CCC(CC1)O | C5H10O2
reactant | 1,1′-(azodicarbonyl)dipiperidine | 2.5 g | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
reactant | tributylphosphine | 2.5 mL | C(CCC)P(CCCC)CCCC | C12H27P
solvent | tetrahydrofuran | 60 mL | O1CCCC1 | C4H8O
product | Ethyl 5-[4-(methylsulfonyl)phenoxy]-7-(tetrahydro-2H-pyran-4-yloxy)-1H-indole-2-carboxylate | 5.33 g | CS(=O)(=O)C1=CC=C(OC=2C=C3C=C(NC3=C(C2)OC2CCOCC2)C(=O)OCC)C=C1 | C23H25NO7S
